spice
* SPICE netlist for the given schematic
M1 4 5 8 8 NMOS
M2 2 6 8 8 NMOS
M3 5 4 3 3 PMOS
M4 2 4 3 3 PMOS
? Missing component
* Define models for NMOS and PMOS
.model NMOS NMOS (Level=1)
.model PMOS PMOS (Level=1)
* VDD supply voltage
VDD 3 0 DC VDD
* End of netlist
